US07902226B2
3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine
3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine (270 mg, 0.817 mmol) was dissolved in ethanol (15 ml), and after adding a 10% palladium carbon catalyst (water content: 52.0%; 270 mg), it was stirred at 40° C. for 3 hours under a hydrogen atmosphere at atmospheric pressure. After removing the catalyst by filtering (ethanol washing), the filtrate was concentrated under a reduced pressure, and as a result, 185 mg (quantitative) of the title compound was obtained in the form of a colorless syrup.

reactant | 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine | 0.817 mmol, 270 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C20H30N2O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium carbon | 270 mg | [C].[Pd]
product | 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
